US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(6-hydroxyhexyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 1, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (32.0 mg, 0.116 mmol) and 6-bromo-1-hexanol (0.03 mL, 0.248 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (3 mg, 6%). EI-MS m/z 380 (M+) Rt (1.64 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.116 mmol, 32.0 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 6-bromo-1-hexanol | 0.248 mmol, 0.03 mL | BrCCCCCCO | C6H13BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(6-hydroxyhexyl)-1-azoniabicyclo[2.2.1]heptane bromide | 3 mg, 6% | [Br-].OC(C12CC[N+](CC1)(C2)CCCCCCO)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C25H34NO2.BrH/c27-20-10-2-1-9-17-26-18-15-24(21-26,16-19-26)25(28,22-11-5-3-6-12-22)23-13-7-4-8-14-23;/h3-8,11-14,27-28H,1-2,9-10,15-21H2;1H/q+1;/p-1
